US08685969B2
5. Methyl 1-(3-amino-2-methylphenyl)-7-(2-methoxyethoxy)-5H-pyridazino[4,5-b]indole-4-carboxylate
A steel bomb containing a solution of 4-chloro-7-(2-methoxyethoxy)-1-(2-methyl-3-nitrophenyl)-5H-pyridazino[4,5-b]indole (0.5862 g, 1.420 mmol), DPPF (0.118 g, 0.213 mmol), palladium(II) acetate (0.048 g, 0.213 mmol) and sodium acetate (0.233 g, 2.84 mmol) in DMA (10 mL) and methanol (20 mL, 494 mmol) was evacuated and flushed with nitrogen twice. It was then evacuated, filled with CO (g) to 70 psi and heated at 90° C. overnight. The oil bath was removed, and the bomb was cooled to room temperature followed by immersion in dry ice; valve was then released. The cold bath was removed, and the reaction was warmed to room temperature. The solution was filtered through a pad of CELITE® and rinsed with MeOH. The filtrate was concentrated in vacuo, diluted with EtOAc (200 mL) and saturated aqueous NaHCO3 (40 mL). After separation of the layers, the organic layer was washed with brine (40 mL), dried over MgSO4, and concentrated in vacuo to give the desired product (0.600 g, 1.476 mmol, 104% yield) as a light burgundy solid.

reactant | 4-chloro-7-(2-methoxyethoxy)-1-(2-methyl-3-nitrophenyl)-5H-pyridazino[4,5-b]indole | 1.420 mmol, 0.5862 g | ClC1=NN=C(C2=C1NC=1C=C(C=CC21)OCCOC)C2=C(C(=CC=C2)[N+](=O)[O-])C | C20H17ClN4O4
reactant | sodium acetate | 2.84 mmol, 0.233 g | C(C)(=O)[O-].[Na+]
reactant | methanol | 494 mmol, 20 mL | CO | CH4O
solvent | DMA | 10 mL | CC(=O)N(C)C | C4H9NO
catalyst | DPPF | 0.213 mmol, 0.118 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
catalyst | palladium(II) acetate | 0.213 mmol, 0.048 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | Methyl 1-(3-amino-2-methylphenyl)-7-(2-methoxyethoxy)-5H-pyridazino[4,5-b]indole-4-carboxylate | 1.476 mmol, 0.600 g, 104% yield | NC=1C(=C(C=CC1)C1=NN=C(C=2NC=3C=C(C=CC3C21)OCCOC)C(=O)OC)C | C22H22N4O4
